US04351832
A mixture of 2-chlorobenzimidazole (2.0 g), isopropyl bromide (1.36 ml) and potassium carbonate (34 g) in dimethyl sulfoxide (200 ml) was heated at 60° C. for 6 hr and poured into ice. The resulting mixture was extracted with ethyl acetate and the extract was washed with water, dried over sodium sulfate and evaporated. The residue was chromatographed through silica gel using 5% methanol in dichloromethane. The appropriate fractions were evaporated to give 2-chloro-1-(1-methylethyl)benzimidazole, mp 58°-60° C.

reactant | 2-chlorobenzimidazole | 2.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | isopropyl bromide | 1.36 ml | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 34 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 2-chloro-1-(1-methylethyl)benzimidazole | ClC1=NC2=C(N1C(C)C)C=CC=C2 | C10H11ClN2
